US07214798B2
5.2. 3-{[1-(1-Isoquinolyl)-4-piperidyl]methyl}-1,3-oxazolidine-2,4-dione
A solution of 2.01 g (9.95 mmol) of diisopropyl azodicarboxylate (DIAD) in 5 ml of tetrahydrofuran is added dropwise, under an inert atmosphere, to a solution of 2.4 g (9.95 mmol) of [1-(1-isoquinolyl)-4-piperidyl]methanol, prepared in step 5.1, 2.87 g (10.94 mmol) of triphenylphosphine and 1.21 g (11.93 mmol) of 1,3-oxazolidine-2,4-dione in 40 ml of tetrahydrofuran, cooled to about −10° C., the temperature of the reaction medium being maintained throughout between −10° C. and 0° C. Stirring is then continued at 0° C. for 1 hour and then at 25° C. for 18 hours.

reactant | diisopropyl azodicarboxylate | 9.95 mmol, 2.01 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | [1-(1-isoquinolyl)-4-piperidyl]methanol | 9.95 mmol, 2.4 g | C1(=NC=CC2=CC=CC=C12)N1CCC(CC1)CO | C15H18N2O
reactant | triphenylphosphine | 10.94 mmol, 2.87 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1,3-oxazolidine-2,4-dione | 11.93 mmol, 1.21 g | O1C(NC(C1)=O)=O | C3H3NO3
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 3-{[1-(1-Isoquinolyl)-4-piperidyl]methyl}-1,3-oxazolidine-2,4-dione | C1(=NC=CC2=CC=CC=C12)N1CCC(CC1)CN1C(OCC1=O)=O | C18H19N3O3
